US04207326
In the same way as described in Example 4-A, reaction of 1-hexadecyl-3,5-dimethyl-pyrazole with ethyl bromide yields 2-ethyl-1-hexadecyl-3,5-dimethyl-pyrazolium bromide; m.p. 97°-101° C.

reactant | 1-hexadecyl-3,5-dimethyl-pyrazole | C(CCCCCCCCCCCCCCC)N1N=C(C=C1C)C | C21H40N2
reactant | ethyl bromide | C(C)Br | C2H5Br
product | 2-ethyl-1-hexadecyl-3,5-dimethyl-pyrazolium bromide | [Br-].C(C)N1[N+](=C(C=C1C)C)CCCCCCCCCCCCCCCC | InChI=1S/C23H45N2.BrH/c1-5-7-8-9-10-11-12-13-14-15-16-17-18-19-20-25-23(4)21-22(3)24(25)6-2;/h21H,5-20H2,1-4H3;1H/q+1;/p-1
